US06384242B1
1a. Preparation of 4-Methyl-4-(4-methylpent-3-en-1-yl)-2-oxetanone
128.8 g (1.0 mol) of 6-methyl-5-hepten-2-one were dissolved in 516 g of dichloromethane in an N2 atmosphere. The solution was cooled to −19° C. 0.71 g of boron trifluoride etherate (0.5 mol % relative to 6-methyl-5-hepten-2-one) were then added and ketene gas was metered in over a period of 4 h. The temperature ranged between −12° C. and −14° C. The ketene gas was drawn directly from a diketene cracker: approx. 1.25 mol of ketene were generated from 55 ml of diketene and used. The solution was stirred overnight at −15° C., during which time an N2 stream was passed through the solution to remove excess ketene. Finally, 350 mg (2.5 mmol) of urotropine were added, the solution stirred again for 30 minutes and heated to 0° C. The solvent was then evaporated off at 15 mbar and 20° C. The crude product was obtained in the form of an orange solution. Distillation by way of a thin-film evaporator at 1-2 mbar and with an overhead temperature of 88° C. yielded 136 g (80.9%) of the title product.

reactant | 6-methyl-5-hepten-2-one | 1.0 mol, 128.8 g | CC(=CCCC(C)=O)C | C8H14O
reactant | ketene | C=C=O | C2H2O
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | ketene | approx. 1.25 mol | C=C=O | C2H2O
reactant | diketene | 55 ml | C=C1CC(=O)O1 | C4H4O2
solvent | dichloromethane | 516 g | ClCCl | CH2Cl2
solvent | N2 | N#N | N2
catalyst | boron trifluoride etherate | 0.71 g | B(F)(F)F.CCOCC
catalyst | urotropine | 2.5 mmol, 350 mg | C1N2CN3CN1CN(C2)C3 | C6H12N4
product | 4-Methyl-4-(4-methylpent-3-en-1-yl)-2-oxetanone | 136 g, 80.9% | CC1(CC(O1)=O)CCC=C(C)C | C10H16O2
